US09260397B2
1-(4-chlorophenyl)-3-tetradecyl imidazolium bromide
According to the general synthesis procedure 5.6 mmol (1.00 g) 1-(4-chlorophenyl)imidazole and 6.7 mmol (1.86 g, 1.82 ml) 1-bromotetradecane are dissolved in 5 ml THF and heated for 42 h to 90° C. At the end of the reaction the reaction mixture is cooled down to room temperature and the product is precipitated with diethylether.

reactant | 1-(4-chlorophenyl)imidazole | 5.6 mmol, 1.00 g | ClC1=CC=C(C=C1)N1C=NC=C1 | C9H7ClN2
reactant | 1-bromotetradecane | 6.7 mmol, 1.82 ml, 1.86 g | BrCCCCCCCCCCCCCC | C14H29Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-chlorophenyl)-3-tetradecyl imidazolium bromide | [Br-].ClC1=CC=C(C=C1)[N+]1=CN(C=C1)CCCCCCCCCCCCCC | InChI=1S/C23H36ClN2.BrH/c1-2-3-4-5-6-7-8-9-10-11-12-13-18-25-19-20-26(21-25)23-16-14-22(24)15-17-23;/h14-17,19-21H,2-13,18H2,1H3;1H/q+1;/p-1
